US04028342
instead of aluminum isopropoxide, 0.8 g of tetrabutyl zirconate (as a 30% solution in xylene) is added to the 2,4-dimethylphenol. Butyl alcohol and xylene are removed with heat and vacuum to yield zirconium 2,4-dimethylphenoxide, which upon addition of toluene and divinylbenzene and reaction in accordance with part A of Example I, functions as an alkylation catalyst, yielding a similar yield of the same styryl monomer.

reactant | aluminum isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | tetrabutyl zirconate | 0.8 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Zr+4]
reactant | 2,4-dimethylphenol | CC1=C(C=CC(=C1)C)O | C8H10O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | zirconium 2,4-dimethylphenoxide | CC1=C([O-])C=CC(=C1)C.[Zr+4].CC1=C([O-])C=CC(=C1)C.CC1=C([O-])C=CC(=C1)C.CC1=C([O-])C=CC(=C1)C | InChI=1S/4C8H10O.Zr/c4*1-6-3-4-8(9)7(2)5-6;/h4*3-5,9H,1-2H3;/q;;;;+4/p-4
